US06429315B1
Five grams of 3-chloro-2-(2-aminobutyl)thiophene is dissolved in 10 ml of methylene chloride in a 3-neck round bottomed flask blanketed with an inert atmosphere at 0° C. Pyridine (2.2 ml) is added in one portion followed by 2.05 ml of methanesulfonyl chloride. After warming to room temperature, the mixture is stirred for 4 hours before diluting with 100 ml of diethyl ether. The solution is poured into a separatory funnel and washed with water, dilute 2N HCl, saturated aqueous sodium bicarbonate and brine, dried over magnesium sulfate, filtered and concentrated in vacuo to provide (R)-N-[1-[(3-chlorothien-2-yl)methyl]propyl]methanesulfonamide (5.5 g) as an orange oil which solidifies upon standing in a refrigerator overnight. MS: m/z (EI, 70EV) 267 (5%). 1H NMR (200 MHz; CDCl3): δ 1.0 (3H, t, CH3), 1.6 (2H, m, CH2), 2.65 (3H, s, CH3), 3.0 (2H, m, CH2), 3.6 (1H, m, CH), 6.9 (1H, d, CH), 7.2 (1H, d, CH).

reactant | 3-chloro-2-(2-aminobutyl)thiophene | Five grams | ClC1=C(SC=C1)CC(CC)N | C8H12ClNS
reactant | Pyridine | 2.2 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 2.05 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | (R)-N-[1-[(3-chlorothien-2-yl)methyl]propyl]methanesulfonamide | 5.5 g | ClC1=C(SC=C1)C[C@@H](CC)NS(=O)(=O)C | C9H14ClNO2S2
